US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-hydroxybenzamide
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) were added (5-(4-hydroxybenzamido)pyridin-3-yl)boronic acid (88 mg, 0.34 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (19 mg, 0.02 mmol) and 227 μl of a 2M aqueous solution of cesium carbonate in dioxane (2 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified by reverse phase using SP1® Purification System to give 29 mg (21% yield) of the title compound as a white solid. Purity 96%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (5-(4-hydroxybenzamido)pyridin-3-yl)boronic acid | 0.34 mmol, 88 mg | OC1=CC=C(C(=O)NC=2C=C(C=NC2)B(O)O)C=C1 | C12H11BN2O4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-hydroxybenzamide | 29 mg, 21% yield | NC1=NC=NC(=C1C=1C=C(C=NC1)NC(C1=CC=C(C=C1)O)=O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H27N9O3
